US04826973
A solution of 2-picoline (17.8 ml) in 90 ml of methylene chloride was cooled to -5° C. (ice-brine) and chlorosulfonic acid (5.97 ml) was added at such a rate as to maintain the internal reaction temperature below 5° C. The resulting solution was added via canula, to a suspension of 7.56 g of benzyloxycarbonylthreonine amide, O-mesylate in 120 ml of methylene chloride. The resulting heterogeneous mixture was refluxed for about 16 hours yielding a clear solution. The solution was poured into 500 ml of pH 4.5 phosphate buffer (0.5M) and further diluted with 120 ml of methylene chloride. The separated organic layer was washed once with 100 ml of buffer solution and the combined aqueous phases were treated with 10.2 g of tetra-n-butyl-ammonium hydrogensulfate and extracted with methylene chloride (one 300 ml portion and two 150 ml portions). After drying the combined organic extracts over sodium sulfate, the solution was concentrated to yield 12.7 g of N-sulfonyl benzyloxycarbonylthreonine amide, O-mesylate, tetrabutylammonium salt.

reactant | 2-picoline | 17.8 ml | N1=C(C=CC=C1)C | C6H7N
reactant | chlorosulfonic acid | 5.97 ml | ClS(=O)(=O)O | ClHO3S
reactant | benzyloxycarbonylthreonine amide | 7.56 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@H](O)C)C(=O)N | C12H16N2O4
reactant | phosphate | 0.5M, 500 ml, pH 4.5 | P(=O)([O-])([O-])[O-]
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | N-sulfonyl benzyloxycarbonylthreonine amide | 12.7 g | S(=O)(=O)=NC([C@@H](NC(=O)OCC1=CC=CC=C1)[C@H](O)C)=O | C12H14N2O6S
